US03954983
4-Amino-5-ethyl-4H-1,2,4-triazole-3-thiol
Thiocarbohydrazide, 212.2 grams, is added to 500 ml. of propionic acid and heated to its reflux temperature for approximately 90 minutes. The reaction mixture is cooled to room temperature and diluted with anhydrous ether. After standing overnight in the refrigerator, the desired 4-amino-5-ethyl-4H-1,2,4-triazole-3 -thiol is filtered, washed with anhydrous ether and air dried to yield a product having a m.p. of 143°-6° C.

reactant | Thiocarbohydrazide | NNC(=S)NN | CH6N4S
reactant | propionic acid | C(CC)(=O)O | C3H6O2
solvent | ether | CCOCC | C4H10O
product | 4-Amino-5-ethyl-4H-1,2,4-triazole-3-thiol | NN1C(=NN=C1CC)S | C4H8N4S
